US07935960B2
1,4-Anthracenedione
To a solution of quinizarin (10.00 g, 42.0 mmol, 1 molar equivalent) in methanol (200 mL) cooled to −0° C. was added sodium borohydride (6.38 g, 169.0 mmol, 4 molar equivalent). The resulting mixture was stirred at −0° C. for 2 h. A solution of 5M hydrochloric acid (150 mL) was then added dropwise to the reaction mixture at −0° C. The precipitated orange solid was filtered, washed twice with water, and dried under vacuum. Purification by column chromatography on silica gel (eluent: dichloromethane) gave the title compound as yellow needles (5.9 g, 68%). 1H NMR (300.13 MHz, CDCl3) (ppm) 7.08 (s, 2H) 7.68-7.72 (m, 2H) 8.05-8.10 (m, 2H) 8.63 (s, 2H).

reactant | quinizarin | 42.0 mmol, 1 molar, 10.00 g | C=1C=CC2=C(C1)C(=O)C3=C(C=CC(=C3C2=O)O)O | C14H8O4
reactant | sodium borohydride | 169.0 mmol, 4 molar, 6.38 g | [BH4-].[Na+]
reactant | hydrochloric acid | 5M, 150 mL | Cl | ClH
solvent | methanol | 200 mL | CO | CH4O
product | 1,4-Anthracenedione | 5.9 g, 68% | C1(C=CC(C2=CC3=CC=CC=C3C=C12)=O)=O | C14H8O2
